US06706757B2
Preparation of {7-[(Phenylsulfonyl)amino]-3,4-dihydro-2H-chromen-2-yl}methylbenzenesulfonate
A solution of (7-amino-2-(hydroxymethyl)chroman (0.52 g, 2.9 mmol) in pyridine is treated with a solution of phenylsulfonyl chloride (0.81 mL, 6.4 mmol) in pyridine, stirred at ambient temperature for 1 h, poured into water and extracted with ethyl acetate. The extracts are combined, washed with brine, dried over MgSO4 and concentrated in vacuo. The resultant residue is chromatographed (silica gel, ethyl acetate:hexane 1:1) to afford the title product as an off-white solid, 1.23 g (92% yield), identified by NMR and mass spectral analyses.

reactant | 7-amino-2-(hydroxymethyl)chroman | 2.9 mmol, 0.52 g | NC1=CC=C2CCC(OC2=C1)CO | C10H13NO2
reactant | phenylsulfonyl chloride | 6.4 mmol, 0.81 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | {7-[(Phenylsulfonyl)amino]-3,4-dihydro-2H-chromen-2-yl}methylbenzenesulfonate | 92% yield | C1(=CC=CC=C1)S(=O)(=O)NC1=CC=C2CCC(OC2=C1)COS(=O)(=O)C1=CC=CC=C1 | C22H21NO6S2
